US04925591
To 1.0 g of this 4-n-dodecyloxy-3-chlorobenzoic acid was added 10 g of thionyl chloride, and the mixture was refluxed for 3 hours and unreacted thionyl chloride was removed under a reduced pressure. Thus, 4-n-dodecyloxy-3-chlorobenzoic acid chloride was quantitatively obtained. A solution of the so-obtained compound in toluene was added dropwise to a solution of 0.59 g of p-benzyloxyphenol and 0.3 g of triethylamine in toluene, and the mixture was stirred overnight. The thus-obtained solution was diluted with ethyl acetate, and the dilution was washed with 0.5N hydrochloric acid, a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in succession, dehydrated on anhydrous sodium sulfate and concentrated under a reduced pressure to obtain p-benzyloxyphenyl 4-dodecyloxy-3-chlorobenzoate. The so-obtained ester was dissolved in ethyl acetate and 1 g of 5%-Pd/C was added to the solution, and the mixture was stirred at room temperature under a pressure of 3 atmospheres in a hydrogen atmosphere for three days and three nights. The Pd/C was removed by filtration and the filtrate was recrystallized from n-hexane to obtain 500 mg of 4-hydroxyphenyl 4-dodecyloxy-3-chlorobenzoate.

reactant | 4-n-dodecyloxy-3-chlorobenzoic acid | 1.0 g | C(CCCCCCCCCCC)OC1=C(C=C(C(=O)O)C=C1)Cl | C19H29ClO3
reactant | thionyl chloride | 10 g | S(=O)(Cl)Cl | Cl2OS
product | 4-n-dodecyloxy-3-chlorobenzoic acid chloride | C(CCCCCCCCCCC)OC1=C(C=C(C(=O)Cl)C=C1)Cl | C19H28Cl2O2
